US04922012
Preparation of N,N-dimethylcarbamoylmethyldi-(n-octyl) phosphine oxide
Into a 500 ml, three-necked, round-bottom flask equipped with a thermowell, a mechanical stirrer, a condenser and a septum, was placed a solution of 13.4 g (0.11 mole) of N,N-dimethylchloroacetamide, 27.4 g (0.10 mole) of di(n-octyl)phosphine oxide, and 1.0 g of Adogen 464 in 150 ml of methylene chloride along with 100 ml of 50% sodium hydroxide solution. The solution was stirred at 300 rpm under a gentle reflux until GLC analysis of removed aliquots (2 hours) indicated the consumption of the starting materials. The aqueous layer was extracted with 50 ml of pentane and the combined organic layers were washed with three 50 ml portions of water followed by one 50 ml portion of saturated sodium chloride solution. After drying over anhydrous potassium carbonate, and filtering, the filtrate was evaporated in vacuo (80° C.; 2mm Hg) to yield 29.5 g of an amber oil which was 77% pure by GLC. Upon cooling, the oil crystallized. Recrystallization from pentane afforded a colorless hygroscopic solid which was chromatographically pure, Mp 38.5-40.5. Analytical data obtained for this product is summarized in Table I.

reactant | N,N-dimethylchloroacetamide | 0.11 mole, 13.4 g | CN(C(CCl)=O)C | C4H8ClNO
reactant | di(n-octyl)phosphine oxide | 0.10 mole, 27.4 g | C(CCCCCCC)P(CCCCCCCC)=O | C16H35OP
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
catalyst | Adogen 464 | 1.0 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N,N-dimethylcarbamoylmethyldi-(n-octyl) phosphine oxide | 29.5 g | CN(C(=O)CP(CCCCCCCC)(CCCCCCCC)=O)C | C20H42NO2P
